US03936464
Preparation of 4-hydroxy-4-(α,α,α-trifluoro-p-tolyl)piperidine
A mixture of 10.0 g. (0.03 mol) of 1-benzyl-4-hydroxy-4-(α,α,α-trifluoro-p-tolyl)piperidine and 1.0 g. of 10% Pd/C in 100 ml. of ethanol containing 2.0 ml. of acetic acid is shaken under hydrogen. The mixture is filtered and the filtrate is evaporated to give a white solid which is dissolved in 50 ml. of water and rendered alkaline by addition of 1N NaOH solution. Filtration gives white crystals, m.p. 136°-138°C.

reactant | 1-benzyl-4-hydroxy-4-(α,α,α-trifluoro-p-tolyl)piperidine | 0.03 mol | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=C(C=C1)C(F)(F)F)O | C19H20F3NO
reactant | ethanol | 2.0 ml | C(C)O | C2H6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | NaOH | 1N | [OH-].[Na+]
catalyst | Pd/C | [Pd] | Pd
solvent | water | O | H2O
product | 4-hydroxy-4-(α,α,α-trifluoro-p-tolyl)piperidine | OC1(CCNCC1)C1=CC=C(C=C1)C(F)(F)F | C12H14F3NO
